US04452783
4-Allyloxy-3-chloro-phenylacetyl-(DL)-phenylalanyl-(DL)-phenylalanyl-glycine methyl ester
4-Allyloxy-3-chloro-phenylacetyl-(DL)-phenylalanyl-(DL)-phenylalanine (1.20 g) was dissolved in dry tetrahydrofuran (10 ml). To the solution was added glycine methyl ester hydrochloride (0.25 g) in dry chloroform (10 ml) containing dry triethylamine (0.28 ml). DCC (0.41 g) was added and the reaction mixture was stirred overnight at room temperature. DCU was then filtered off.

reactant | 4-Allyloxy-3-chloro-phenylacetyl-(DL)-phenylalanyl-(DL)-phenylalanine | 1.20 g | C(C=C)OC1=C(C=C(CC(NC(CC2=CC=CC=C2)=O)C(=O)NC(CC2=CC=CC=C2)C(=O)O)C=C1)Cl | C29H29ClN2O5
reactant | glycine methyl ester hydrochloride | 0.25 g | Cl.COC(CN)=O
reactant | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | DCC | 0.41 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Allyloxy-3-chloro-phenylacetyl-(DL)-phenylalanyl-(DL)-phenylalanyl-glycine methyl ester | COC(CNC(C(NC(C(NC(CC1=CC=CC=C1)=O)CC1=CC(=C(C=C1)OCC=C)Cl)=O)CC1=CC=CC=C1)=O)=O | C32H34ClN3O6
